US04496735
A mixture of 18.4 g of 2-pyridinethiol, 23.2 g of 4-chlorobenzaldehyde, 40 g of potassium carbonate and 100 ml of hexamethylphosphoramide was heated at a temperature of 140° C. for 4 hours. After cooling, the mixture was filtered and the filtrate was concentrated. The resulting oily substance was dissolved in diethyl ether and the solution was washed successively with an aqueous solution of sodium hydroxide and water, and dried over magnesium sulfate. The solvent was distilled off and the resulting oily substance was distilled under reduced pressure to obtain 15 g (42% yield) of 4-(2-pyridylthio)benzaldehyde as a colorless oil having a boiling point of 136° C./2 mmHg.

reactant | 2-pyridinethiol | 18.4 g | N1=C(C=CC=C1)S | C5H5NS
reactant | 4-chlorobenzaldehyde | 23.2 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | potassium carbonate | 40 g | C([O-])([O-])=O.[K+].[K+]
solvent | hexamethylphosphoramide | 100 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 4-(2-pyridylthio)benzaldehyde | 15 g, 42% yield | N1=C(C=CC=C1)SC1=CC=C(C=O)C=C1 | C12H9NOS
